US04732998
Tetraethyl (phenoxymethylene)-bisphosphonate
Diethylphosphite (20.6 ml) was added dropwise at 20° C. to a stirred suspension of 55% sodium hydride (6.24 g) in dimethylformamide (90 ml). After stirring for a further 15 minutes, the mixture was cooled to 0° C., and dichloromethyl phenyl ether (9.27 g) was added dropwise. Stirring was continued overnight at 45° C., and the mixture was cooled in ice, diluted with water, neutralized and extracted with ethyl acetate. The organic phase was washed repeatedly with water, dried and evaporated in vacuo to yield an oil which was purified by chromatography on silica gel. Eluent: ether-acetone 85:15. The pure title compound was obtained as a colourless oil.

reactant | Diethylphosphite | 20.6 ml | C(C)OP(OCC)[O-]
reactant | sodium hydride | 6.24 g | [H-].[Na+]
reactant | dichloromethyl phenyl ether | 9.27 g | C1(=CC=CC=C1)OC(Cl)Cl | C7H6Cl2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Tetraethyl (phenoxymethylene)-bisphosphonate | O(C1=CC=CC=C1)C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C15H26O7P2
